US08017626B2
Method 18: Ethyl 2-(4-hydroxy-1-methyl-2-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-dihydroquinoline-3-carboxamido)acetate
A mixture of ethyl 2-(4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (5 g, 12 mmol), bis(pinacolato)diboron (3 g, 13 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.3 g, 0.5 mmol), acetic acid, potassium salt (1 ml, 23 mmol), and 1,4-Dioxane (100 ml) was heated to 85-95° C. under an atmosphere of nitrogen. After 44 hrs, cooled reaction mixture and filtered off purplish-beige solid. The filtrate was concentrated on a roto-evaporator and treated with EtOH. A tan solid was filtered off and washed with ether. A second crop was obtained from the filtrate mixture. Yield=2.5 g.

reactant | ethyl 2-(4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 12 mmol, 5 g | OC1=C(C(N(C2=CC=C(C=C12)I)C)=O)C(=O)NCC(=O)OCC | C15H15IN2O5
reactant | bis(pinacolato)diboron | 13 mmol, 3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium | 23 mmol, 1 ml | [K] | K
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.5 mmol, 0.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-Dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | Ethyl 2-(4-hydroxy-1-methyl-2-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2-dihydroquinoline-3-carboxamido)acetate | OC1=C(C(N(C2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)C)=O)C(=O)NCC(=O)OCC | C21H27BN2O7
